Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right upper extremity abscess with cellulitis
 
Major Surgical or Invasive Procedure:
Incision and drainage of abscess at the right upper arm near the 
axilla

 
History of Present Illness:
Mr. ___ is a ___ with polysubstance abuse (active tobacco & 
cocaine, former alcohol and IV opiates) currently on Subutex 
maintenance, prior recurrent UE cellulitis related to IVDU with 
apparent mild bilateral lymphedema, prior clavicular 
osteomyelitis, prior right thigh compartment syndrome s/p 
fasciotomy, who presented to the ___ transferred from ___ 
___ with RUE cellulitis and abscess.

He tells me he was in his usual state of good health until about 
6 days ago when he began to note aching pain in his right upper 
lateral chest and axilla. Pain became progressively worse, and 
then he noted increased swelling and redness of the right arm. 
He thought he had an abscess, so he took some unspecified 
antibiotics that a friend gave him. He unfortunately had minimal 
response to this therapeutic trial, and experienced worsening 
redness, swelling, pain, and then had an episode of fevers and 
chills yesterday, which brought him to the ___.

There he reportedly had US imaging showing abscess, but they did 
not feel comfortable draining it, so transferred him to ___ ED 
where the EDMDs performed I&D with reportedly "a lot of pus." 
Otherwise, vital signs were stable. He was given a dose of 
vancomycin as well as pain medication and a tetanus vaccination. 
Admission was requested for continued antibiotics pending 
improvement.

He currently feels somewhat better after I&D and antibiotics. He 
is hopeful he will improve quickly so he can return to work. He 
is nervous about developing withdrawal syndrome in context of 
being off Subutex but understands possible need for narcotic 
analgesia in near future.

REVIEW OF SYSTEMS
A full 10 point review of systems was performed and is otherwise 
negative except as noted above.

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY
Polysubstance abuse (active tobacco & cocaine, former alcohol 
and IV opiates) currently on Subutex maintenance, prior 
recurrent UE cellulitis related to IVDU with apparent mild 
bilateral lymphedema, prior clavicular osteomyelitis, prior 
right thigh compartment syndrome s/p fasciotomy
 
Social History:
___
Family History:
Family history was reviewed and is thought impertinent to 
current presentation. Positive for cancer in his father and 
uncle (some type of Lymphoma).
 
Physical Exam:
PHYSICAL EXAM on ADMISSION
Vitals: 98.3 134/92 73 16 98RA 
Gen: NAD, sitting up in bed, conversant, pleasant
Eyes: EOMI, sclerae anicteric  
HENT: NCAT, MMM, OP clear, hearing adequate
Cardiovasc: RRR, no obvious MRG. Full pulses, no edema.
Resp: normal effort, breathing unlabored, no accessory muscle 
use, lungs CTA ___ without adventitious sounds. Somewhat 
bronchial.
GI: Soft, NT, ND, BS+. No HSM.
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice. RUE, medial and posterior 
aspect of upper arm, near axilla, there is a 1cm I&D site with 
adherent clot, no ooze or pus draining; distal to this site 
there is induration and erythema of the skin.
Ext: Bilateral UE edema. Normal pulse accounting for soft tissue 
swelling. Normal sensation and ROM of wrist/hand/fingers.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect. Thought linear.
GU: No foley

PHYSICAL EXAM on DISCHARGE
Vitals: 98.1 132 / 77  6716 97 RA
Gen: NAD, sitting up in bed, conversant, pleasant
Eyes: EOMI, sclerae anicteric  
HENT: NCAT, MMM, OP clear, hearing adequate
Cardiovasc: RRR, no obvious MRG. Full pulses, no edema.
Resp: normal effort, breathing unlabored, no accessory muscle 
use, lungs CTA ___ without adventitious sounds. Somewhat 
bronchial.
GI: Soft, NT, ND, BS+. No HSM.
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice. RUE, medial and posterior 
aspect of upper arm, near axilla, there is a 1cm I&D site C/D/I, 
no ooze or pus draining; distal to this site there is improving 
induration and erythema of the skin, which appears to be 
receding from yesterday's margins.
Ext: Bilateral UE edema R>L. Normal pulse accounting for soft 
tissue swelling. Normal sensation and ROM of wrist/hand/fingers.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect. Thought linear.
GU: No foley
 
Pertinent Results:
LABS ON ADMISSION
___ 04:30AM BLOOD WBC-12.6* RBC-4.29* Hgb-12.1* Hct-37.1* 
MCV-87 MCH-28.2 MCHC-32.6 RDW-13.2 RDWSD-41.3 Plt ___
___ 04:30AM BLOOD Neuts-63.3 ___ Monos-10.3 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-7.97* AbsLymp-3.19 
AbsMono-1.29* AbsEos-0.06 AbsBaso-0.03
___ 04:30AM BLOOD Glucose-95 UreaN-13 Creat-0.7 Na-136 
K-4.3 Cl-98 HCO3-27 AnGap-11
___ 04:37AM BLOOD Lactate-0.8

LABS PRIOR TO DISCHARGE
___ 09:10AM BLOOD WBC-6.6 RBC-4.30* Hgb-12.5* Hct-37.2* 
MCV-87 MCH-29.1 MCHC-33.6 RDW-13.2 RDWSD-41.7 Plt ___
___ 09:10AM BLOOD Neuts-59.7 ___ Monos-9.6 Eos-1.2 
Baso-0.3 Im ___ AbsNeut-3.92# AbsLymp-1.90 AbsMono-0.63 
AbsEos-0.08 AbsBaso-0.02
___ 09:10AM BLOOD ___ PTT-33.1 ___
___ 09:10AM BLOOD Glucose-116* UreaN-10 Creat-0.6 Na-143 
K-4.4 Cl-103 HCO3-26 AnGap-14
___ 09:10AM BLOOD ALT-62* AST-42* CK(CPK)-103 AlkPhos-51 
TotBili-0.3
___ 09:10AM BLOOD Calcium-8.9 Phos-2.7 Mg-1.9

IMAGING STUDIES
OSH US reportedly showed abscess, now s/p I&D here

UENI at ___
1. Focal occlusion of the 1 of the brachial vein and basilic 
vein at the midportion.
2. 4.0 x 1.5 x 4.2 cm fluid collection in the right arm, 
possibly related to recent I and D. superimposed infection 
cannot be completely excluded on the basis of imaging. However, 
no significant hyperemia is seen within the soft tissues.
NB: I personally confirmed with the radiologist that her 
impression was (1) DVT of the UE and (2) no actual abscess, more 
likely hematoma vs seroma probably related to recent I&D
 
Brief Hospital Course:
This is a ___ with polysubstance abuse (active tobacco & 
cocaine, former alcohol and IV opiates) currently on Subutex 
maintenance, prior recurrent UE cellulitis related to IVDU with 
apparent mild bilateral lymphedema, prior clavicular 
osteomyelitis, prior right thigh compartment syndrome s/p 
fasciotomy, who presented to the ___ transferred from ___ 
___ with RUE cellulitis and abscess.

His abscess was I&D'd in the ED and he was admitted for 
continued IV antibiotics. He was continued on IV vancomycin, 
light ACE wrap, and experienced significant improvement in 
erythema, local swelling, induration, and pain.

He had persistent swelling of his RUE out of proportion to his 
LUE in spite of bandaging. He also had some persistent 
fullness/fluctuance between biceps and triceps muscle groups of 
uncertain significance. Given these findings, he was sent for a 
UENI, which showed no abscess, possible hematoma/seroma, and an 
apparent upper extremity DVT.

He felt strongly about going home today if at all possible. It 
was ultimately decided that since there was no lingering abscess 
and his arm appeared improved, we would plan to discharge on 
oral antibiotics (Bactrim/Keflex for 7 days), and since he had 
new DVT, we would plan to discharge on Lovenox bridging to 
Coumadin. I counselled him that I was unable to arrange close 
follow up or speak directly with his PCP (Dr ___ about 
managing his anticoagulation as it was the weekend. He agreed to 
arrange followup for ___, to have INR level checked on 
___, and to take all medications as prescribed.

We discussed his insurance status. He said he was confident he 
qualified for Mass Health and planned to apply for this ASAP on 
___, and would make arrangements to continue his medications 
meantime. He said he was able to pay for his basic medications 
out of pocket. I spoke directly with case management who said 
there were no options at this time for arranging free lovenox 
prescription. We gave him 2 days worth of Lovenox prescriptions 
from pharmacy supply (with approval from same) given the high 
out of pocket cost of these medications.

# Leukocytosis
# Fever, chills
# RUE swelling, redness, pain
# Medial superior arm abscess with superimposed cellulitis: 
Purulent cellulitis with multiple MRSA risk factors. S/p I&D of 
abscess in ED; unfortunately no culture sent from expressed 
purulent material. Apparently wound base was fairly shallow and 
there was no obvious tract to warrant packing. Treatment as 
above, with vancomycin monotherapy with improvement. UENI 
ultimately did not show obvious residual abscess. Given 
improvement, and his strong desire for discharge today, he was 
discharged on Bactrim/Keflex for 7 days.
- Complete antibiotic course
- If failing to respond to therapy, would strongly consider 
reimaging as he did have a small collection that appeared more 
consistent with seroma/hematoma potentially related to recent 
I&D but could theoretically organize with time to represent 
nidus of persistent infection

# Bilateral UE swelling with promenent
# RUE swelling and apparent acute
# DVT RUE: On admission he endorsed bilateral arm swelling for 
some time, occurring after multiple bouts of UE cellulitis in 
setting of IVDU. This mild bilateral swelling was thought most 
likely to represent lymphedema due to prior venolymphatic 
injuries. However, RUE was >> than LUE which persisted in spite 
of light compression from ACE and improvement in above 
infection. UENI ultimately showed occlusion of the deep veins of 
the right arm consistent with DVT. Discussion of management as 
above, he was discharged with Lovenox-->Coumadin.
- Patient will make sure Dr ___ responsibility for his 
Coumadin management. He was provided with RX for labs, RX for 
coumadin, RX for additional Lovenox, and 2 days worth of Lovenox 
injections. He was aware that the timing of his discharge 
___ evening, with short amount of time for preparation) made 
arranging this in the typical fashion impossible and he was 
willing to accept the risks.
- Continue coumadin for at least 3 months
- Suggest vascular surgery evaluation given prior surgery in 
area of his right thoracic outlet which can predispose to 
thoracic outlet syndrome and recurrent DVT

# Polysubstance abuse with former opiate IVDU
# Subutex maintenance: Multiple infectious complications from 
IVDU in the past including osteomyelitis, skin/soft tissue 
infections, and right thigh compartment syndrome. He was managed 
here with Nicotine patch for tobacco cravings. We held Subutex 
in case of the need for alternative opiate analgesics, but he 
ended up managing pain with just APAP. He did not develop 
withdrawal syndrome here. He was very open about his drug use 
history and did not show any medication seeking behaviors.

# Mild anemia: Likely inflammation. Remained stable.

# Mild transaminitis: Noted on labs this morning.
- He should be screened for Hepatitis as outpatient.

>30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine 8 mg SL BID 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not take more than 4 grams of acetaminophen per day 
RX *acetaminophen 500 mg ___ tablet(s) by mouth four times a day 
Disp #*30 Tablet Refills:*0 
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth four times a day Disp 
#*28 Tablet Refills:*0 
3.  Enoxaparin Sodium 80 mg SC Q12H Duration: 5 Days 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC every 12 hours Disp #*4 
Syringe Refills:*0
RX *enoxaparin 80 mg/0.8 mL 80 mg SC every 12 hours Disp #*8 
Syringe Refills:*1 
4.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0 
5.  Warfarin 5 mg PO DAILY16 
This medication requires monitoring. Please have labs monitored 
as directed and see Dr ___. 
RX *warfarin [Coumadin] 1 mg 4 tablet(s) by mouth every evening 
at 4PM Disp #*30 Tablet Refills:*3 
6.  Buprenorphine 8 mg SL BID  
7.Outpatient Lab Work
Draw INR level
Diagnosis is DVT
Please send results STAT to Dr ___ PCP)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis
Abscess
Right upper extremity DVT
Likely bilateral upper extremity lymphedema from prior injuries
Polysubstance abuse

 
Discharge Condition:
Ambulating, using both extremities normally, tolerating a 
regular diet

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted with abscess and cellulitis of the right arm. 
___ were treated with IV antibiotics, compression, and an 
incision and drainage procedure of the abscess. ___ experienced 
partial improvement but had persistent swelling. 

___ had an ultrasound of your arm to evaluate the swelling 
(looking for a residual abscess) and ___ were actually found to 
have a DVT (blood clot) in that arm. We discussed the risks and 
benefits of anticoagulation and the issues with your insurance. 
___ elected to do Coumadin, with Lovenox to be used as well 
until the Coumadin level (INR) is at goal. 

___ were very motivated to leave but the new DVT (which requires 
medication and very close followup) and the insurance issues 
represented substantial barriers to safe discharge for ___. I 
was not able to secure a follow up appointment with Dr ___ 
___ have to do this yourself. ___ agreed to pay out of 
pocket for the Coumadin and the antibiotics, so ___ will have to 
go and pick these up ASAP after discharge. We are providing ___ 
with two days worth of Lovenox shots so ___ do not have to pay 
for them out of pocket while ___ secure followup with Dr ___ 
___ sort out your insurance.

I am discharging ___ with oral antibiotics for 7 more days as 
well as Coumadin and Lovenox. Please make sure to take both 
antibiotics and the anticoagulants as prescribed.
 
Followup Instructions:
___